US06946554B2
2-Amino-7-(3-pyridylmethyl)-4-oxo-3H,5H-pyrrolo[3,2-d]pyrimidine
Methyl 3-(N,N′-bis-carbomethoxyguanidinyl)-4-(3-pyridylmethyl)-1H-pyrrole-2-carboxylate, obtained from Example 26 (15.0 g, 0.04 mol), methanol (100 mL) and sodium hydroxide pellets (3.7 g, 0.9 mol) were stirred together and boiled under reflux for 18 hours. The mixture was cooled, neutralized with acetic acid (5.4 g. 0.09 mol) and the solid collected by filtration. The product was washed in turn with methanol (20 mL), water (200 mL) and methanol (30 mL) and dried at 110° C. overnight to give 8.2 g (88%) of an off-white powder, mp>300° C.

reactant | Methyl 3-(N,N′-bis-carbomethoxyguanidinyl)-4-(3-pyridylmethyl)-1H-pyrrole-2-carboxylate | C(=O)(OC)N(C(=N)NC(=O)OC)C1=C(NC=C1CC=1C=NC=CC1)C(=O)OC | C17H19N5O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | 0.09 mol, 5.4 g | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
product | 2-Amino-7-(3-pyridylmethyl)-4-oxo-3H,5H-pyrrolo[3,2-d]pyrimidine | 8.2 g, 88% | NC=1NC(C2=C(N1)C(=CN2)CC=2C=NC=CC2)=O | C12H11N5O
